US08791132B2
To a solution of 6-(2-azido-2-(pyridin-4-yl)ethyl)-3,9-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (188 mg, 0.522 mmol) in ethanol-water (9 mL:1 mL), zinc dust (135 mg, 2.08 mmol) and ammonium chloride (110 mg, 2.08 mmol) were added and the reaction mixture was stirred at 85° C. for 45 min. The reaction mixture was filtered and the filtrate concentrated. The residue was basified with aqueous ammonia and extracted with EtOAc (2×50 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude material was purified by reverse phase HPLC to yield 2-(3,9-dimethyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-1-(pyridin-4-yl)ethanamine (45 mg). The racemate can be further separated into the optically active forms by chiral preparative HPLC. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.6 (d, 2H), 7.6 (d, 2H), 7.22 (s, 1H), 7.0 (s, 1H), 6.9 (s, 1H), 4.9 (m, 3H), 4.8 (m, 1H), 4.7 (m, 1H), 3.8-3.6 (m, 2H), 3.2 (m, 2H), 3.18-2.97 (m, 4H), 2.8 (bs, 1H), 2.38 (s, 3H).

reactant | 6-(2-azido-2-(pyridin-4-yl)ethyl)-3,9-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.522 mmol, 188 mg | N(=[N+]=[N-])C(CN1C2=C(C=3C=C(C=CC13)C)CCN(CC2)C)C2=CC=NC=C2 | C21H24N6
reactant | ammonium chloride | 2.08 mmol, 110 mg | [Cl-].[NH4+]
solvent | ethanol water | 9 mL | C(C)O.O
catalyst | zinc | 2.08 mmol, 135 mg | [Zn] | Zn
product | 2-(3,9-dimethyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-1-(pyridin-4-yl)ethanamine | 45 mg | CN1CCC=2N(C=3C=CC(=CC3C2CC1)C)CC(N)C1=CC=NC=C1 | C21H26N4
